Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
bupropion
 
Attending: ___.
 
Chief Complaint:
respiratory distress
 
Major Surgical or Invasive Procedure:
bronchoscopy
 
History of Present Illness:
Ms. ___ is a ___ year-old woman with a history of 
cardiac arrest with anoxic encephalopathy with improving mental 
status s/p tracheostomy and PEG placement on chronic ventilator, 

atrial fibrillation, GI bleed, DMII, obesity, RUE DVT, and 
cellulitis of right knee s/p surgical debridgement presents with 
SOB. The patient says it started the day prior to admission. She 
has been having increased cough. Denies fever or purulent 
sputum. At her rehab facility, she was found to have sats in the 
mid ___ on room air and kept pulling off her nasal cannula. They 
transferred her to the ED.

In the ED, initial vitals:  98.7 120 ___ 95% 2L. Spiked 
temp to 103.8, came down without tylenol. Labs were notable for 
hct 32.9 (from b/l of 29), trop 0.03 with MB of 1, INR 2.7 (on 
coumadin), BNP 10,000, and normal chem7. Initially the patient 
did well on nasal cannula but later required BiPAP. ABG was 
obtained: 7.33/58/46/32. UA was positive. CXR showed bilateral 
pleural effusions, L>R and possible LLL consolidation. She was 
given duonebs, vanc, cefepime, and levofloxacin. Upon arrival to 
the floor, the patient was feeling better without bipap. Her SOB 
was resolved.

Of note, the patient was intermittently hypotensive in the ED, 
and a CVL for pressors was considered. However, the hypotension 
resolved.
 
Review of systems:  
See HPI.  

 
Past Medical History:
- Cardiac Arrest with anoxic encephalopathy s/p tracheostomy and 

PEG placement on chronic ventilator ___
- Atrial fibrillation - was on coumadin PTA but held recently 
due to INR 8 on ___ intermittently off coumadin due to GI 
bleeding
- Upper GI bleed - ___ admitted in ___ without 
any signs of bleeding on EGD ___
- diverticulosis
- DMII
- obesity
- RUE DVT - ___
- R knee cellulitis in setting of a fall, s/p surgical 
debridement ___
- COPD
- HTN
- Sweets syndrome - had been on prednisone and dapsone in ___. had febrile neutrapenic dermatosis assoc w/ encephalitis, 
aseptic meningitis, myocarditis, aortitis, AS, coronoary artery 
occlusion, hepatitis, splenomegaly, and glomerulonephritis, 
sterile osteomyelitis. followed by Dr. ___.
- colonic polyps
- OSA not on CPAP

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
Admission exam:
Vitals- T: BP: P: R: 18 O2:  
GENERAL: sleepy but easily arousable and appropriate when woken 
up, oriented x1-2  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, unable to assess JVP due to neck adipose  
LUNGS: Clear to auscultation bilaterally, with decreased breath 
sounds at the L base. no wheezes, rales, rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly 
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: sacral decub per RN, BLE venous stasis changes, RLE 
surgical wound, intertrigonal erythema and scaling c/w candidal 
infection 
NEURO: CN II-XII grossly intact. MAEE. 
 
Discharge exam:
Tmax: 36.8 °C (98.3 °F) Tcurrent: 36.3 °C (97.3 °F) HR: 85 (85 - 
118) bpm BP: 145/93(102) {71/26(41) - 145/93(102)} mmHg RR: 16 
(14 - 29) insp/min pO2: 91% 
GENERAL:: AOx3 mentating app no acute distress. 
HEENT: Neck veins flat. Mucous membranes moist. 
Chest; wheezy throughout lung fields with decreased sounds on 
left. Faint bibasilar crackles. 
CV: tachycardic with irregular rate no murmurs. 
___: trace edema to midshin bilaterally. 

 
Pertinent Results:
Admission Labs:
___ 01:00PM BLOOD WBC-4.7 RBC-3.64* Hgb-10.5*# Hct-32.9* 
MCV-90 MCH-28.8 MCHC-31.9 RDW-14.4 Plt ___
___ 01:00PM BLOOD ___ PTT-53.7* ___
___ 01:00PM BLOOD Glucose-95 UreaN-15 Creat-1.1 Na-145 
K-3.4 Cl-106 HCO3-30 AnGap-12
___ 03:10AM BLOOD Calcium-8.7 Phos-3.0 Mg-1.2*
 
Brief Hospital Course:
Impression: Ms. ___ is a ___ year old woman with h/o cardiac 
arrest ___, afib on coumadin, diabetes, and COPD who presented 
with 2 days of SOB.

# Hypoxia/SOB:
Initially undifferentiated respiratory distress thought to be 
multifactorial from possible HCAP and COPD and she required 
BiPap support. Initialy CXR showed bilateral pleural effusions, 
L>R and possible LLL consolidation. Subsequent CXR showed 
complete white out of the left lung. She was treated empirically 
with vancomycin and cefepime and a 5 day steroid burst. She also 
had an elevated BNP implicating CHF in addition to possible 
pneumonia with fever and LLL consolidation on CXR  - thus she 
was diuresed with IV Lasix. A bronchoscopy was performed at 
bedside on ___ which removed a large mucus plug with 
improvement in her oxygen saturations. Culture from BAL washings 
grew MRSA so she was narrowed to vancomycin. She will completed 
a ten day course of vancomycin on ___. Likely she had a viral 
infection causing increased secretions and mucous plugging that 
she was unable to clear. Further, she likely was colonized by 
MRSA given her positive swab in ___. 

# AF with RVR:
Rate poorly controlled at rehab just prior to admission. 
Intermittently off coumadin in the past with h/o GI bleeding.  
Patient’s rate was difficult to control and blood pressures have 
been borderline-90s. Responded to metoprolol for rate control 
and we continued her coumadin dosing. She was discharged on 
100mg PO metoprolol succinate daily with a goal HR<110 bpm.

# systolic CHF:
EF 35%. Medical management included IV diuresis for frank volume 
overload on admission. She was then transitioned to a stable 
diuretic regimen of 20mg PO lasix daily. She was also continued 
on metoprolol. She was not started on an ace inhibitor but would 
benefit from one. Discharge weight 99 kg.

# bilateral pleural effusions: 
Likely related to volume overload from CHF. Expect improvement 
with continued diuresis with a stable diuretic regimen. Also 
with contributions from an infectious process (had evidence of 
viral infection on CT scan). 

# pericardial effusion: 
Hemodynamically insignificant. Pulsus between ___. 

# UTI: 
MRSA in urine culture. Unknown if patient symptomatic or 
colonized from chronic foley catheter.

# Anoxic encephalopathy and AMS: 
Altered on admission, most likely secondary to combination of 
infection and possible CO2 retention and likely was unable to 
compensate because of poor baseline. She was alert and oriented 
to name and hospital most days with confusion of the month/year. 
She displayed poor memory and attention.

# GERD: con't home PPI.

TRANSITIONAL ISSUES
=====================
* schedule repeat EGD with GI for duodenal adenoma
* repeat electrolytes on ___ and notify MD of results
* uptitrate metoprolol if HR >110 bpm for >24hrs
* monitor daily weights, weight on discharge was 99 kg. 
* optimization of heart failure regimen would include ace 
inhibitor, consider addition as tolerated
* follow up pericardial and pleural effusions with imaging as 
indicated

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID oral 
care 
2. Ferrex ___ (polysaccharide iron complex) 150 mg iron oral BID 

3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Metoprolol Tartrate 25 mg PO BID 
5. QUEtiapine Fumarate 25 mg PO QHS 
6. ipratropium-albuterol 0.5 mg-3 mg(2.5 mg base)/3 mL 
inhalation q6H 
7. Acetaminophen 650 mg PO Q6H:PRN pain 
8. Bisacodyl 10 mg PR HS:PRN constipation 
9. Fleet Enema ___AILY:PRN constipation 
10. LOPERamide 2 mg PO QID:PRN diarrhea 
11. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
12. Cepacol (Menthol) 1  lozenge Other Q4H:PRN sore throat 
13. Omeprazole 20 mg PO DAILY 
14. Fluoxetine 20 mg PO DAILY 
15. Montelukast 10 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Bisacodyl 10 mg PR HS:PRN constipation 
3. Fluoxetine 20 mg PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Montelukast 10 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN wheeze or SOB 
8. Docusate Sodium 100 mg PO BID 
9. Furosemide 20 mg PO DAILY 
10. Guaifenesin ___ mL PO Q6H:PRN cough 
11. Cepacol (Menthol) 1  lozenge Other Q4H:PRN sore throat 
12. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID oral 
care 
13. Ferrex ___ (polysaccharide iron complex) 150 mg iron oral 
BID 
14. Fleet Enema ___AILY:PRN constipation 
15. ipratropium-albuterol 0.5 mg-3 mg(2.5 mg base)/3 mL 
inhalation q6H 
16. LOPERamide 2 mg PO QID:PRN diarrhea 
17. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
18. Polyethylene Glycol 17 g PO DAILY 
Hold for loose bowel movements. 
19. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
1. MRSA pneumonia
2. MRSA urinary tract infection
3. chronic obstructive pulmonary disease
4. atrial fibrillation

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___, 

___ was a pleasure taking care of you at the ___ 
___. You were admitted because you had 
worsening shortness of breath. You were found to have a lot of 
mucous plugs in your lungs. We think that you originally had a 
virus that increased your secretions in your lungs causing a lot 
of mucous. Then, this became infected with MRSA, a bacterial 
infection. You had ten days of antibiotics to clear the 
infection. 

Also, you need to schedule a repeat endoscopy for your duodenal 
adenoma. Call ___ to schedule this appointment with the 
gastroenterologists. 

We wish you all the best. 

Your primary medicine team
 
Followup Instructions:
___